US06340759B1
(281-4) 6-(4-Ethynylphenyl)-(4-ethylpiperazin-1-yl)thieno[3,2-c]pyridine
6-[4-(3,3-Dimethyl-3-hydroxy-1-propynyl)phenyl]-(4-ethylpiperazin-1-yl)thieno[3,2-c]pyridine (0.80 g) was dissolved in 1-butanol (15 ml), followed by the addition of potassium hydroxide (0.47 g), and the mixture was heated under reflux for 20 min. The reaction solution was evaporated, and the resulting residue was partitioned between ethyl acetate and water, and then extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was removed, and the resulting residue was dissolved in ether, and then filtered through NH-silica gel. The resulting filtrate was concentrated, to give 0.59 g of the title compound as a pale yellow oil.

reactant | 6-[4-(3,3-Dimethyl-3-hydroxy-1-propynyl)phenyl]-(4-ethylpiperazin-1-yl)thieno[3,2-c]pyridine | 0.80 g | CC(C#CC1=CC=C(C=C1)C1=CC2=C(C=N1)C=C(S2)N2CCN(CC2)CC)(O)C | C24H27N3OS
reactant | potassium hydroxide | 0.47 g | [OH-].[K+]
solvent | 1-butanol | 15 ml | C(CCC)O | C4H10O
product | 6-(4-Ethynylphenyl)-(4-ethylpiperazin-1-yl)thieno[3,2-c]pyridine | 0.59 g | C(#C)C1=CC=C(C=C1)C1=CC2=C(C=N1)C=C(S2)N2CCN(CC2)CC | C21H21N3S
